US08357703B2
b) 6-[(3-Butyl-5-methyl-isoxazol-4-ylmethyl)-amino]-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 19b, 6-[(3-butyl-5-methyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid (70 mg, 0.24 mmol) instead of 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid, was converted, using 4-aminotetrahydropyran instead of rac-2,2,2-trifluoro-1-(methyl)ethylamine, to the title compound (77 mg, 86%) which was obtained as an off white foam after purification by chromatography (silica, heptane:ethyl acetate=1:0 to 2:1). MS: m/e=373.3 [M+H]+.

reactant | 6-[(3-butyl-5-methyl-isoxazol-4-ylmethyl)-amino]-nicotinic acid | 0.24 mmol, 70 mg | C(CCC)C1=NOC(=C1CNC1=NC=C(C(=O)O)C=C1)C | C15H19N3O3
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[(3-Butyl-5-methyl-isoxazol-4-ylmethyl)-amino]-N-(tetrahydro-pyran-4-yl)-nicotinamide | 77 mg, 86% | C(CCC)C1=NOC(=C1CNC1=NC=C(C(=O)NC2CCOCC2)C=C1)C | C20H28N4O3
